US09216988B2
In a vial, N-[(4-bromophenyl)methyl]-N-tert-butyl-1-phenylmethanesulfonamide (186 mg; 0.47 mmol), palladium(II) acetate (5 mg, 0.023 mmol), 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl (22 mg, 0.047 mmol) sodium tert-butoxide (61 mg, 0.61 mmol) were weighed out and the vial was purged with nitrogen. 1,4-Dioxane (3 mL) and 1-piperazin-1-ylethanone (78 mg, 0.61 mmol) were then added and the reaction was stirred at 100° C. for 16 hours. The reaction was filtered through diatomaceous earth, concentrated and purified by preparative reverse phase HPLC to yield 141 mg of N-(4-(4-acetylpiperazin-1-yl)benzyl)-N-tert-butyl-1-phenylmethanesulfonamide. 1H NMR (400 MHz, DMSO) δ 7.47-7.33 (m, 5H), 7.27-7.16 (m, 2H), 6.96-6.83 (m, 2H), 4.41 (s, 2H), 4.16 (s, 2H), 3.62-3.49 (m, 4H), 3.19-3.09 (m, 2H), 3.09-2.95 (m, 2H), 2.03 (s, 3H), 1.33 (s, 9H); LCMS (m/z) ES+ 444.1 [M+1]+.

reactant | N-[(4-bromophenyl)methyl]-N-tert-butyl-1-phenylmethanesulfonamide | 0.47 mmol, 186 mg | BrC1=CC=C(C=C1)CN(S(=O)(=O)CC1=CC=CC=C1)C(C)(C)C | C18H22BrNO2S
reactant | 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl | 0.047 mmol, 22 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | 1-piperazin-1-ylethanone | 0.61 mmol, 78 mg | N1(CCNCC1)C(C)=O | C6H12N2O
catalyst | palladium(II) acetate | 0.023 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-Dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(4-(4-acetylpiperazin-1-yl)benzyl)-N-tert-butyl-1-phenylmethanesulfonamide | 141 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(CN(S(=O)(=O)CC2=CC=CC=C2)C(C)(C)C)C=C1 | C24H33N3O3S
